US07342115B2
A mixture of 6-chloro-3-chloromethyl-4-cyclopentyloxy-2-methyl-pyridine hydrochloride salt, (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine (3.0 g, 18.6 mmol), N,N-diisopropylethylamine (4.0 mL, 22.9 mmol), and anhydrous acetonitrile (50 mL) is stirred for 5 hours at 80° C. The reaction is cooled to ambient temperature and concentrated in vacuo. The obtained residue is dissolved in a mixture of hexane and ethyl acetate (4:1, 100 mL) and filtered over a small pad of silica gel (35 g), which is subsequently rinsed with additional 100 mL of the same mixture of hexane and ethyl acetate. The filtered solution is concentrated in vacuo and the resultant residue is chromatographed on silica gel (hexane/ethyl Acetate 4:1) to afford (S)-(6-chloro-4-cyclopentyloxy-2-methyl-pyridin-3-ylmethyl)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine. 1H NMR: (CDCl3) 7.53 (m, 1H), 7.09 (m, 2H), 7.02 (m, 1H), 6.63 (s, 1H), 4.77 (m, 1H), 3.83 (d, 1H), 3.73 (dd, 1H), 3.56 (d, 1H), 2.73 (m, 2H), 2.63 (s, 3H), 2.07 (m, 2H), 2.04 (s, 3H), 1.98 (m, 2H), 1.82 (m, 4H), 1.68 (m, 4H).

reactant | 6-chloro-3-chloromethyl-4-cyclopentyloxy-2-methyl-pyridine hydrochloride salt | Cl.ClC1=CC(=C(C(=N1)C)CCl)OC1CCCC1
reactant | (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | 18.6 mmol, 3.0 g | CN[C@H]1CCCC2=CC=CC=C12 | C11H15N
reactant | N,N-diisopropylethylamine | 22.9 mmol, 4.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-(6-chloro-4-cyclopentyloxy-2-methyl-pyridin-3-ylmethyl)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | ClC1=CC(=C(C(=N1)C)CN([C@H]1CCCC2=CC=CC=C12)C)OC1CCCC1 | C23H29ClN2O
